US05077409
5-Methyl-3-[[3-[[(methylamino)carbonyl]-[[4-(tetradecyloxy)phenyl]methyl]amino1phenyl]methyl]-thiazolium bromide
A mixture of 3.3 g of N-[3-(bromomethyl)phenyl]-N'-methyl-N-[[4-(tetradecyloxy)phenyl]methyl]-urea and 2.1 g of 5-methylthiazole in 50 ml of acetonitrile is refluxed under argon for 5 hours. The mixture is allowed to stand at room temperature overnight. The mixture is diluted with ether and the solid collected. The solid is washed several times with ether then vacuum dried to give 3.7 g of the desired product as a white solid, m.p. 124°-126° C.

reactant | N-[3-(bromomethyl)phenyl]-N'-methyl-N-[[4-(tetradecyloxy)phenyl]methyl]-urea | 3.3 g | BrCC=1C=C(C=CC1)N(C(=O)NC)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C30H45BrN2O2
reactant | 5-methylthiazole | 2.1 g | CC1=CN=CS1 | C4H5NS
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 5-Methyl-3-[[3-[[(methylamino)carbonyl]-[[4-(tetradecyloxy)phenyl]methyl]amino1phenyl]methyl]-thiazolium bromide | 3.7 g | [Br-].CC1=C[N+](=CS1)CC1=CC(=CC=C1)N(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)C(=O)NC | InChI=1S/C34H49N3O2S.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-23-39-33-21-19-30(20-22-33)27-37(34(38)35-3)32-18-16-17-31(24-32)26-36-25-29(2)40-28-36;/h16-22,24-25,28H,4-15,23,26-27H2,1-3H3;1H
